US04982016
The reaction is carried out in a nitrogen atmosphere in a predried 250 ml RB flask with a side arm and a distillation apparatus leading to a nitrogen outlet. 180 mmoles of lithium aluminum hydride is added to the flask in sufficient tetrahydrofuran to dissolve the lithium aluminum hydride. The solution is cooled with rapid stirring to about 0° C. and 30 mmoles of diethyl phenylmalonic acid ester is slowly added followed by four ml of dry xylene which functions as a heat transfer material and prevents the contents of the flask from "bumping". The solution is heated to about 135° C. and maintained at such temperature for approximately two hours. The reaction mixture is cooled to about 0° C. and an extract solvent composed of equal parts tetrahydrofuran and ethyl ether is added and residual hydride is quenched with water. 90 ml of 2N hydrochloric acid is added to complete hydrolysis. The solution is then extracted twice with ether, the aqueous phase is made alkaline (pH 9-10) with a saturated potassium carbonate solution and extracted with ether. The organic phases are combined, washed with saturated potassium carbonate solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to yield crude 2-phenyl-1,3-propanediol. Purified 2-phenyl-1,3-propanediol (mp 51°-53° C.) was obtained by recrystallization from a mixture of hexane/toluene/ether (10:5:1) in a yield of 72%.

reactant | lithium aluminum hydride | 180 mmoles | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | xylene | four ml | C=1(C(=CC=CC1)C)C | C8H10
reactant | ethyl ether | C(C)OCC | C4H10O
reactant | hexane toluene ether | CCCCCC.C1(=CC=CC=C1)C.CCOCC
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-phenyl-1,3-propanediol | yield of 72% | C1(=CC=CC=C1)C(CO)CO | C9H12O2
